US09107916B2
E. 2-[3-amino-5-(4-methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carboxylic acid
A solution of tert-butyl [1-(4-cyanopyridin-2-yl)-5-(4-methylphenyl)-1H-pyrazol-3-yl]carbamate (150 mg, 0.4 mmol) in TFA (2 mL) was heated to 50° C. for 30 min and evaporated to an oily residue. To the residue was added 10 N NaOH (2 mL) followed by MeOH (2 mL). The solution was stirred at 70° C. for 4 h and then cooled to rt. Solvent was evaporated, and the pH of the resulting aqueous phase was carefully adjusted to pH=5.5 using conc. HCl and then 1 N HCl. The resulting mixture was extracted with EtOAc (2×20 mL). The organic layers were dried (MgSO4), filtered, concentrated to an oil, and purified by flash column chromatography (MeOH/EtOAc=5:95) to give the title compound (56 mg, 48%) as a beige solid. 1H NMR (400 MHz, DMSO-d6): δ 2.28 (3H, s), 5.73 (1H, s), 5.82 (1H, s), 7.05-7.18 (4H, m), 7.51 (1H, d, J=5.2 Hz), 8.02 (1H, s), 8.22 (1H, d, J=5.2 Hz). [M+H] Calc'd for C16H14N4O2, 295. Found, 295.

reactant | tert-butyl [1-(4-cyanopyridin-2-yl)-5-(4-methylphenyl)-1H-pyrazol-3-yl]carbamate | 0.4 mmol, 150 mg | C(#N)C1=CC(=NC=C1)N1N=C(C=C1C1=CC=C(C=C1)C)NC(OC(C)(C)C)=O | C21H21N5O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-[3-amino-5-(4-methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carboxylic acid | 56 mg, 48% | NC1=NN(C(=C1)C1=CC=C(C=C1)C)C1=NC=CC(=C1)C(=O)O | C16H14N4O2
